*$
* LM2576
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM2576
* Date: 01DEC2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SNVS107D –JUNE 1999–REVISED MAY 2016
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
*
* 1. The following features have been modelled
*      a. Start-up
*      b. Output Current Limit
*      c. Load Transients
*      d. Line Transients
*      e. Inverting Mode Operation
*      f. Enable & Disable by ON_OFF pin
*
* 2. The following features have not been modelled
*      a. Thermal Characteristics 
*      b. Leakage and quiscent currents 
*
*****************************************************************************
.SUBCKT LM2576_TRANS VIN OUT GND FB ON_OFF_N 
E_E4         VIN1 0 VALUE { V(VIN, GND) }
X_U1         N16785629 N16780455 N16783088 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U21         CL N16780558 N16780769 QB srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_OSC_U21         OSC_RAMP OSC_N16782728 OSC_N16784243 OSC_N167827641
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_OSC_U22         OSC_N16784766 OSC_N16784936 N16780558 NAND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_OSC_V7         OSC_N16788042 0 {1.7182-0.035}
X_OSC_S1    OSC_EN_LL 0 OSC_RAMP 0 Oscillator_OSC_S1 
V_OSC_V6         OSC_N16787864 0 {0.75+0.04}
C_OSC_C1         0 OSC_RAMP  1u  TC=0,0 
X_OSC_U25         N16780455 OSC_N16788042 OSC_DUTYL COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_OSC_V4         OSC_N16784243 0 0.8
V_OSC_V5         OSC_N16789270 0 1.3
C_OSC_C5         OSC_TRF 0  10p  TC=0,0 
X_OSC_U24         N16780455 OSC_N16787864 OSC_DUTYH COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_OSC_ABM3         OSC_FREQ 0 VALUE { IF(V(FB1)<0.58,17.602m,83.33m)    }
E_OSC_ABM2         OSC_N16784766 0 VALUE { IF(V(N16780455)>0.755,1,0)    }
R_OSC_R3         OSC_N16784766 OSC_N16784936  107k TC=0,0 
C_OSC_C6         OSC_N16784936 0  10p  TC=0,0 
X_OSC_U23         OSC_N16789270 EN1 OSC_EN_LL COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_OSC_V3         OSC_N16782728 0 1.55
G_OSC_ABMI2         0 OSC_RAMP VALUE { IF(V(OSC_EN_LL)>0.5,
+  (IF(V(OSC_TRF)>0.5,-V(OSC_FREQ),V(OSC_FREQ))),0)    }
E_OSC_ABM1         N16780455 0 VALUE { If(V(OSC_RAMP)>1.2,
+  (2.2105465*V(OSC_RAMP)*V(OSC_RAMP)-4.5932886*V(OSC_RAMP)+3.5287593),V(OSC_RAMP))
+       }
X_OSC_U20         OSC_N16784936 OSC_N16784766 d_d1  
R_OSC_R2         OSC_N167827641 OSC_TRF  1k TC=0,0 
C_OSC_C7         0 OSC_N16790080  1n  TC=0,0 
X_OSC_U26         OSC_N16790080 OSC_DUTYL d_d1  
R_OSC_R4         OSC_DUTYL OSC_N16790080  591.63 TC=0,0 
X_OSC_U27         OSC_DUTYL OSC_N16790122 DUTYL AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_OSC_ABM4         OSC_N16790122 0 VALUE { If(V(OSC_N16790080)<0.5,1,0)     }
E_E5         FB1 0 VALUE { V(FB, GND) }
X_U24         OUT VIN1_CL d_d1  
V_V2         N16782719 OUT 0.735
R_R4         VIN ON_OFF_N  1E9 TC=0,0 
E_EA_E2         EA_N00312 0 EA_N00344 0 1
R_EA_R1         REF EA_N00234  600 TC=0,0 
R_EA_R2         EA_N00234 EA_N00312  30k TC=0,0 
E_EA_E1         EA_N01722 0 FB1 EA_N00234 10k
R_EA_R3         EA_N01722 EA_N00344  2.229k TC=0,0 
C_EA_C1         0 EA_N00344  1u  TC=0,0 
E_EA_ABM1         N16785629 0 VALUE { LIMIT(V(EA_N00312), 2.4, 0.1)    }
E_E6         EN1 0 VALUE { V(ON_OFF_N, GND) }
X_S1    N16784673 0 VIN1_CL N16782719 LM2576_S1 
R_R5         GND ON_OFF_N  1E6 TC=0,0 
X_U2         N16783088 N16780558 N16780769 N16780780 NOR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U25         N16780780 DUTYL N16784673 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U_E6         U_N16793791 0 VALUE { V(VIN1_CL, GND) }
E_U_ABM5         CL 0 VALUE { IF (V(U_N16793728) > 0.5, 1, 0)    }
X_U_U23         U_N16793849 U_N16793791 U_N16793730 COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
C_U_C2         U_N16793728 0  10p  TC=0,0 
R_U_R3         VIN VIN1_CL  0.01 TC=0,0 
V_U_V2         VIN1 U_N16793849 0.058
R_U_R4         U_N16793730 U_N16793728  100k TC=0,0 
X_U_U22         U_N16793730 U_N16793728 d_d1  
V_V1         REF 0 1.23
.IC         V(OSC_RAMP )=0
.ENDS LM2576_TRANS
*$
.subckt Oscillator_OSC_S1 1 2 3 4  
S_OSC_S1         3 4 1 2 _OSC_S1
RS_OSC_S1         1 2 1G
.MODEL         _OSC_S1 VSWITCH Roff=1e9 Ron=1.0m Voff=0.8 Von=0.2
.ends Oscillator_OSC_S1
*$
.subckt LM2576_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1E6 Ron=0.2155 Voff=0.2 Von=0.8
.ends LM2576_S1
.SUBCKT d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ENDS d_d1
*$
.SUBCKT srlatchrhp_basic_gen s r q qb params: vdd=1 vss=0 vthresh=0.5 
gq 0 qint value = {if(v(r) > {vthresh},-5,if(v(s)>{vthresh},5, 0))}
cqint qint 0 1n
rqint qint 0 1000000meg
d_d10 qint my5 d_d1
v1 my5 0 {vdd}
d_d11 myvss qint d_d1
v2 myvss 0 {vss} 
eq qqq 0 qint 0 1
x3 qqq qqqd1 buf_basic_gen params: vdd={vdd} vss={vss} vthresh={vthresh}
rqq qqqd1 q 1
eqb qbr 0 value = {if( v(q) > {vthresh}, {vss},{vdd})}
rqb qbr qb 1 
cdummy1 q 0 1n 
cdummy2 qb 0 1n
.ic v(qint) {vss}
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ENDS srlatchrhp_basic_gen
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT NOR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR3_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$